US04666911
Into 40 ml of dichloromethane, was dissolved 6.5 g of 1-phenylpiperazine. To the solution, while being stirred and cooled in ice, was added dropwise 3.0 g of 2,4-dimethylallophanoyl chloride. After 0.5 hour of reaction at room temperature, the reaction mixture was washed with water and dried over anhydrous sodium sulfate. The solvent was removed by distillation and the residue was recrystallized from a mixture of ethanol and petroleum ether to obtain 4.0 g (72% yield) of 1-(2,4-dimethyl-allophanoyl)-4-phenylpiperazine having a melting point of 79°-80° C.

reactant | 1-phenylpiperazine | 6.5 g | C1(=CC=CC=C1)N1CCNCC1 | C10H14N2
reactant | 2,4-dimethylallophanoyl chloride | 3.0 g | CN(C(=O)Cl)C(=O)NC | C4H7ClN2O2
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
product | 1-(2,4-dimethyl-allophanoyl)-4-phenylpiperazine | 4.0 g, 72% yield | CN(C(=O)N1CCN(CC1)C1=CC=CC=C1)C(=O)NC | C14H20N4O2
